US04619931
A mixture of 2.7 parts of ethyl 2-[(4-aminophenyl)amino]-acetate hydrochloride, 1.1 parts of acetic acid anhydride, 0.98 parts of sodium hydrogen carbonate, 65 parts of dichloromethane and 50 parts of water was stirred for 30 minutes at room temperature. The organic phase was separated, washed with water, dried, filtered and evaporated. The residue was crystallized from a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane, yielding 1.9 parts (68%) of ethyl 2-[[4-(acetylamino)phenyl]amino]acetate; mp. 119.5° C. (12).

reactant | ethyl 2-[(4-aminophenyl)amino]-acetate hydrochloride | Cl.NC1=CC=C(C=C1)NCC(=O)OCC
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | ethyl 2-[[4-(acetylamino)phenyl]amino]acetate | 68% | C(C)(=O)NC1=CC=C(C=C1)NCC(=O)OCC | C12H16N2O3
